US06187777B1
2-(4-Piperidylpyrrolo[4,5-d]pyrimidin-6-yl)thiophene Hydrochloride.
Using the method described in Example 30 by employing 2-(1-pyrrolidinylvinyl)thiophene (freshly prepared before use) (1.80 g, 10.1 mmol), 4,6-dichloro-5-nitropyrimidine (Aldrich Chemical Company) (1.95 g, 10.1 mmol), N,N-diisopropylethyl amine (Aldrich Chemical Company) (1.8 mL, 10.1 mmol), piperidine (2.0 mL, 20.3 mmol), NEt3 (Aldrich Chemical Company) (2.0 mL) and SnCl2 (30 mL of a 2M solution in DMF). The residue was purified by flash chromatography on silica gel with 97:3 CHCl3:MeOH as elutant to give 460 mg (16%) of the free base as a beige colored solid. 1H NMR (DMSO-d6; 400 MHz): δ 1.72 (s, 6), 3.83 (s, 4), 6.69 (br s, 1), 7.25 (t, 1, J=3.9), 7.69 (br s, 1), 7.75 (br s, 1), 8.30 (s, 1), 11.34 (s, 1). MS m/z: 285 (M+1). To a solution of 2-(4-Piperidylpyrrolo[4,5-d]pyrimidin-6-yl)thiophene (0.46 g, 1.63 mmol) in 10:1 EtOAc: MeOH (30 mL) was added 1N etheral HCl (Aldrich Chemical Company) (1.63 mL, 1.63 mmol). The precipitate was collected by filtration, washed with EtOAc (2×10 mL), ether (3×15 mL) and dried under vacuum to give 462 mg (88%) of the title compound as a beige colored solid. Mp: >280° C. 1H NMR (DMSO-d6; 400 MHz): δ 1.71 (s, 6), 4.05 (br s, 4), 6.77 (s, 1), 7.26 (t, 1, J=4.6), 7.80 (d, 1, J=5.0), 7.89 (d, 1, J=3.6), 8.59 (s, 1), 12.45 (s, 1), 14.42 (s, 1). MS m/z: 285 (M+1 for free base). Anal. Calcd for C15H16N4S.HCl: C, 56.15; H, 5.34; N, 17.46; Cl, 11.05. Found C, 55.86; H 5.32; N, 17.27; Cl, 11.29.

reactant | 2-(4-Piperidylpyrrolo[4,5-d]pyrimidin-6-yl)thiophene | 1.63 mmol, 0.46 g | N1CCC(CC1)C1=NC=C2C(N1)=CC(=N2)C=2SC=CC2 | C15H16N4S
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 1.63 mmol, 1N, 1.63 mL | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | 2-(4-Piperidylpyrrolo[4,5-d]pyrimidin-6-yl)thiophene Hydrochloride | 462 mg, 88% | Cl.N1CCC(CC1)C1=NC=C2C(N1)=CC(=N2)C=2SC=CC2 | InChI=1S/C15H16N4S.ClH/c1-2-14(20-7-1)12-8-11-13(18-12)9-17-15(19-11)10-3-5-16-6-4-10;/h1-2,7-10,16H,3-6H2,(H,17,19);1H
